US07291616B2
A mixture of 4-nitrobenzyl bromide (2.16 g, 10 mmol), a solution of dimethylamine in methanol (2 M, 50 ml, 100 mmol), N,N-dimethylformamide (20 ml), and potassium carbonate (2.07 g, 15 mmol) was stirred for 12 hours. The methanol was removed by concentrating under reduced pressure and the mixture was treated with ethyl acetate (200 ml). The mixture was washed with water (100 ml), dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to yield 4-(N,N-dimethylaminomethyl)-4-nitrobenzene (0.98 g, 72% yield).

reactant | 4-nitrobenzyl bromide | 10 mmol, 2.16 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | dimethylamine | CNC | C2H7N
reactant | methanol | 100 mmol, 2 M, 50 ml | CO | CH4O
reactant | potassium carbonate | 15 mmol, 2.07 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-(N,N-dimethylaminomethyl)-4-nitrobenzene | 0.98 g, 72% yield | CN(C)CC1(CC=CC=C1)[N+](=O)[O-] | C9H14N2O2
